Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
latex / Darvon / Demerol
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female h.o DVT not on AC, UC per patient, Asthma, 
depression, HTN, NIDDM who presented to ___ 
last night after driving at approximately  30mph into a 
telephone pole. She states that she was looking in the rear 
mirror and lost control of the vehicle. denies any 
lightheadedness, chest pain, SOB, vision change prior to the 
accident. She states that she was
restrained and hit the steering wheel with her chest but denies 
head strike, loss of consciousness.  She was unable to extricate 
herself, and was taken to ___ where she underwent a torso 
CT scan, which reportedly was only positive for left sided ___ 
rib fractures. 

Her labs were significant for Hb 13.7 and WBC 6.5, BUN=15 and 
Cr:0.65.

The patient was transferred to ___ for further workup. on 
presentation here, she denies excessive pain, has no SOB, CP, 
however, enorses some pain with deep breathing on anterior left 
chest wall. 

Her CT head and C-spine at ___ failed to identify acute 
fractures or intracranial injuries on preliminary read. Her 
C-spine showed Mild anterolisthesis of C5 on C6 and C6 on C7 
likely degenerative in nature. 
 
Past Medical History:
PMH: Asthma, Anxiety, Depression, NIDDM, DVTx2 in LLE last year,
GERD, US, hypertension, kidney stones, microscopic colitis per
patient had GIB when started on AC
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Physical Exam:
Vitals: T:98.3 HR:92 BP:122/87 RR:18 Sat:98% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, no neck TTP
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R, TTP in Left anterior 
chest wall. pain with deep inspiration. 
ABD: Soft, nondistended, nontender, no rebound or guarding,
Ext: No ___ edema, ___ warm and well perfused, no tenderness. full
ROM in both upper and lower extremities. varicose veins noted on 
LLE. 

Discharge Physical Exam:
VS: 97.8 PO 121 / 73 78 16 94 Ra 
GEN: Well appearing. Pleasant and interactive.
HEENT: PERRL. EOMI. Mucus membranes pink/moist. 
CV: RRR
PULM: Clear to auscultation bilaterally.
ABD: Soft, non-tender, non-distended A&Ox3. Follows commands and 
moves all extremities equal and strong. Speech is clear and 
fluent. 
 
Pertinent Results:
___ 05:35AM BLOOD WBC-7.2 RBC-4.61 Hgb-13.8 Hct-43.2 MCV-94 
MCH-29.9 MCHC-31.9* RDW-14.4 RDWSD-49.1* Plt ___
___ 05:35AM BLOOD Neuts-60.4 ___ Monos-9.8 Eos-3.6 
Baso-1.0 Im ___ AbsNeut-4.36 AbsLymp-1.79 AbsMono-0.71 
AbsEos-0.26 AbsBaso-0.07
___ 05:35AM BLOOD Glucose-153* UreaN-15 Creat-0.6 Na-140 
K-4.3 Cl-102 HCO3-29 AnGap-9*
___ 05:35AM BLOOD ALT-21 AST-24 AlkPhos-139* TotBili-0.3
___ 05:35AM BLOOD Lipase-44
___ 05:35AM BLOOD cTropnT-<0.01
___ 05:35AM BLOOD Albumin-3.9
___ 05:50AM URINE Color-Straw Appear-Clear Sp ___
___ 05:50AM URINE RBC-1 WBC-19* Bacteri-NONE Yeast-NONE 
Epi-<1
___ 05:50AM URINE Mucous-RARE*

___ 5:50 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
      ENTEROCOCCUS SP..    >100,000 CFU/mL.  PREDOMINATING 
ORGANISM. 
         INTERPRET RESULTS WITH CAUTION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     1 S
 
Brief Hospital Course:
Ms. ___ is a ___ yo F who presented to the Emergency 
Department from outside hospital transfer on ___ after a 
motor vehicle crash sustaining left sided rib fractures ___. The 
patient reported no remembering the event immediately leading up 
to the crash. Of note she has a significant cardiac history and 
is being evaluated by a cardiologist outpatient with an 
implanted continuous cardiac monitor. She was admitted for 
hemodynamic monitoring and pain control.

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a oral tylenol 
and tramadol effectively.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored and the patient 
had no events on continuous telemetry monitoring.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was given a regular diet that was well 
tolerated. Patient's intake and output were closely monitored
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

The patient was independent in mobility once adequate pain 
control was achieved and did not require physical therapy 
intervention.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient was strongly advised to follow up with 
her cardiologist to review heart monitor and correlate timing to 
car crash. The patient was instructed to avoid driving or 
operating any machinery until cleared by her cardiologist. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Omeprazole 20 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Losartan Potassium 50 mg PO DAILY 
4. Sertraline 50 mg PO DAILY 
5. DULoxetine 30 mg PO BID 
6. Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
DAILY 
7. ALPRAZolam 0.25 mg PO DAILY:PRN anxiety 
8. tolterodine 4 mg oral DAILY 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  TraMADol ___ mg PO Q4H:PRN pain 
RX *tramadol 50 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
3.  ALPRAZolam 0.25 mg PO DAILY:PRN anxiety  
4.  DULoxetine 30 mg PO BID  
5.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
6.  Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
DAILY  
7.  Losartan Potassium 50 mg PO DAILY  
8.  MetFORMIN (Glucophage) 500 mg PO BID  
9.  Omeprazole 20 mg PO DAILY  
10.  Sertraline 50 mg PO DAILY  
11.  tolterodine 4 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left rib fractures ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after a motor vehicle crash. You were found to have left sided 
rib fractures ___. You were given pain medication and encouraged 
to take deep breaths. You are now doing well, pain is better 
controlled, and you are moving around without difficulty. You 
are now ready to be discharged to home to continue your 
recovery. 

We strongly recommend close follow up with your outpatient 
cardiologist to interrogate and review your heart monitor for 
any event. You were monitored on telemetry while in the hospital 
and had no events. Do not drive, operate heavy machinery, or 
engage in high risk activity until cleared by your cardiologist. 


Please note the following discharge instructions:

* Your injury caused Left sided rib fractures ___ which can 
cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___